US06962940B2
A 3 L 3-necked round bottom flask was equipped with a mechanical stirrer, thermometer, and condenser and charged with 2-(3-ethoxy-4-methoxyphenyl)-1-(methylsulphonyl)-eth-2-ylamine (137.0 g, 500 mmol), N-acetyl-L-leucine (52 g, 300 mmol), and methanol (1.0 L). The stirred slurry was heated to reflux for 1 hour. The stirred mixture was allowed to cool to ambient temperature and stirring was continued for another 3 hours at ambient temperature. The slurry was filtered and washed with methanol (250 mL). The solid was air-dried and then dried in vacuo at ambient temperature to a constant weight, giving 109.5 g (98% yield) of the crude product (85.8% ee). The crude solid (55.0 g) and methanol (440 mL) were brought to reflux for 1 hour, cooled to room temperature and stirred for an additional 3 hours at ambient temperature. The slurry was filtered and the filter cake was washed with methanol (200 mL). The solid was air-dried and then dried in vacuo at 30° C. to a constant weight, yielding 49.6 g (90% recovery) of (S)-2-(3-ethoxy-4-methoxyphenyl)-1-(methylsulphonyl)-eth-2-ylamine-N-acetyl-L-leucine salt (98.4% ee). Chiral HPLC (1/99 EtOH/20 mM KH2PO4 @pH 7.0, Ultron Chiral ES-OVS from Agilent Technologies, 150 mm×4.6 mm, 0.5 mL/min., @240 nm): 18.4 min (S-isomer, 99.2%), 25.5 min (R-isomer, 0.8%).

reactant | 2-(3-ethoxy-4-methoxyphenyl)-1-(methylsulphonyl)-eth-2-ylamine | 500 mmol, 137.0 g | C(C)OC=1C=C(C=CC1OC)C(CS(=O)(=O)C)N | C12H19NO4S
reactant | N-acetyl-L-leucine | 300 mmol, 52 g | C(C)(=O)N[C@@H](CC(C)C)C(=O)O | C8H15NO3
solvent | methanol | 440 mL | CO | CH4O
solvent | methanol | 1.0 L | CO | CH4O
product | (S)-2-(3-ethoxy-4-methoxyphenyl)-1-(methylsulphonyl)-eth-2-ylamine-N-acetyl-L-leucine salt | 49.6 g, 90% | C(C)(=O)N[C@@H](CC(C)C)C(=O)O.C(C)OC=1C=C(C=CC1OC)[C@@H](CS(=O)(=O)C)N | InChI=1S/C12H19NO4S.C8H15NO3/c1-4-17-12-7-9(5-6-11(12)16-2)10(13)8-18(3,14)15;1-5(2)4-7(8(11)12)9-6(3)10/h5-7,10H,4,8,13H2,1-3H3;5,7H,4H2,1-3H3,(H,9,10)(H,11,12)/t10-;7-/m10/s1
